US08034949B2
To a solution of 6-methylnicotinic acid (1 g) in tetrahydrofuran (10 mL) was added lithium aluminum hydride (277 mg) and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added an aqueous solution of sodium hydroxide and water. After stirring, the mixture was filtered and the organic layer was separated and concentrated in vacuo. The resultant crude product was purified by a column chromatography on silica gel (solvent; chloroform/methanol=98:2→90:10) to give 6-methylpyridin-3-ylmethyl alcohol (434 mg, yield: 49%).

reactant | 6-methylnicotinic acid | 1 g | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | lithium aluminum hydride | 277 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-methylpyridin-3-ylmethyl alcohol | 434 mg, yield: 49% | CC1=CC=C(C=N1)CO | C7H9NO
